US06803378B2
Preparation of (Z)-2,2-Dimethyl-5-(carboxymethylene)-1,3-dioxolane-4-one (IV)
A solution of pure (Z)-2,2 dimethyl-5-(t-butyldiphenylsilyloxycarbonylmethylene)-1,3-dioxolan-4-one (2.80 g, 6.82 mmol) in tetrahydrofuran (40 ml) was treated at 22° C. with acetic acid (2 ml) followed by 6.8 ml of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran. After 15 minutes at 22° C., the reaction mixture was diluted with ethyl acetate, washed with water, brine and dried (magnesium sulfate). The solvent was concentrated under reduced pressure and the residue was triturated with toluene to give 1.00 g (85%) of the title compound as a white crystalline material: mp 203-204° C. (dec.). IR (KBr) v max (cm −1): 1805, 1707 and 1662. 1H NMR (400 MHz, CDCl3) δ: 1.78 (s, 6), 5.89 (s, 1). Anal. calcd for C7H8O5: C, 48.84; H, 4.68. found: C, 48.84; H, 4.65.

reactant | (Z)-2,2 dimethyl-5-(t-butyldiphenylsilyloxycarbonylmethylene)-1,3-dioxolan-4-one | 6.82 mmol, 2.80 g | CC1(O\C(\C(O1)=O)=C/C(=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C23H26O5Si
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-2,2-Dimethyl-5-(carboxymethylene)-1,3-dioxolane-4-one | 1.00 g, 85% | CC1(O\C(\C(O1)=O)=C/C(=O)O)C | C7H8O5
